US04279912
350 mg of 2-amino-4-methoxyquinoline [Grout et al., J. C. S. Perkin I, (1973), p. 1314] were dissolved in 10 ml dimethoxyethane and 390 mg of ethyl bromopyruvate were added thereto. The crystalline intermediate thus formed was filtered off, washed with ether and then was dissolved in ethanol. The solution obtained was refluxed for 1 hour and then the solvent was removed under vacuum. The residue was purified by column chromatography (silica gel--chloroform as eluant) and was crystallized from chloroform/ether to give colorless needles of ethyl 5-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate melting at 178°-179° C.

reactant | 2-amino-4-methoxyquinoline | 350 mg | NC1=NC2=CC=CC=C2C(=C1)OC | C10H10N2O
reactant | ethyl bromopyruvate | 390 mg | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | ethyl 5-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate | COC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C15H14N2O3
